US09056843B2
Intermediate 1a: 4-(N-Hydroxycarbamimidoyl)-N,N-dimethyl-benzamide
4-cyano-N,N-dimethylbenzamide (200 mg, 1.148 mmol), potassium carbonate (952 mg, 6.89 mmol) and hydroxylamine hydrochloride (479 mg, 6.89 mmol) were dissolved in EtOH (11.4 mL). The reaction mixture was stirred at 80° C. for 25 h. The mixture was diluted with EtOAc (50 mL), washed with water (10 mL), water phase extracted with EtOAc (20 mL). Combined organic phases were washed with brine (10 mL) and dried over sodium sulfate. The solvent was removed to give 188 mg of white crystalline needles. The crude material was used without further purification.

reactant | 4-cyano-N,N-dimethylbenzamide | 1.148 mmol, 200 mg | C(#N)C1=CC=C(C(=O)N(C)C)C=C1 | C10H10N2O
reactant | potassium carbonate | 6.89 mmol, 952 mg | C([O-])([O-])=O.[K+].[K+]
reactant | hydroxylamine hydrochloride | 6.89 mmol, 479 mg | Cl.NO
solvent | EtOH | 11.4 mL | CCO | C2H6O
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
product | 4-(N-Hydroxycarbamimidoyl)-N,N-dimethyl-benzamide | 188 mg | ONC(=N)C1=CC=C(C(=O)N(C)C)C=C1 | C10H13N3O2
